US09120819B2
2,2′-[Ethane-1,2-diylbis(oxyethane-2,1-diyloxy-3,1-phenylene)]bis(4,4,5,5-tetramethyl-1,3,2-dioxaborolane)
By following the process described in Example R65, Example R67 is prepared by dimerization of 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol with 1-iodo-2-[2-(2-iodoethoxy)ethoxy]ethane (Example R5). A white powder is obtained.

reactant | 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | CC1(OB(OC1(C)C)C=1C=C(C=CC1)O)C | C12H17BO3
reactant | 1-iodo-2-[2-(2-iodoethoxy)ethoxy]ethane | ICCOCCOCCI | C6H12I2O2
product | 2,2′-[Ethane-1,2-diylbis(oxyethane-2,1-diyloxy-3,1-phenylene)]bis(4,4,5,5-tetramethyl-1,3,2-dioxaborolane) | C(COCCOC=1C=C(C=CC1)B1OC(C(O1)(C)C)(C)C)OCCOC=1C=C(C=CC1)B1OC(C(O1)(C)C)(C)C | C30H44B2O8
